### PR TITLE
feat(LinearAlgebra): rank-nullity theorems for Submodule map/comap

### PR DESCRIPTION
**Pull request by ChiCubed**
We show forms of the rank-nullity theorem involving `Submodule.map` and `Submodule.comap`. Together with `LinearMap.ker_comp` this provides a formula for the rank of the kernel of a composite (and, in finite dimensions at least, for the rank of the range).

---

I didn't explicitly write the aforementioned formula for rank ker (f ∘ g) since it is just `LinearMap.ker_comp` followed by `LinearMap.lift_rank_comap`, but perhaps it should be added for discoverability?

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/Submodule/Map.lean [hunk 1]
```diff
@@ -272,7 +272,18 @@ section submoduleOf
 def submoduleOf (p q : Submodule R M) : Submodule R q :=
   Submodule.comap q.subtype p
 
-/-- If `p ≤ q`, then `p` as a subgroup of `q` is isomorphic to `p`. -/
+theorem map_subtype_submoduleOf (p q : Submodule R M) :
+    map q.subtype (p.submoduleOf q) = (p ⊓ q :) := by
```
Comment (wwylele) [inline Mathlib/Algebra/Module/Submodule/Map.lean]: This one doesn't need `(_ :)`
```suggestion
    map q.subtype (p.submoduleOf q) = p ⊓ q := by
```

File: Mathlib/Algebra/Module/Submodule/Map.lean
Comment (themathqueen) [inline Mathlib/Algebra/Module/Submodule/Map.lean:298]: You can use your new def to golf this (although, not entirely sure it's a good idea):

```suggestion
def submoduleOfEquivOfLe {p q : Submodule R M} (h : p ≤ q) : p.submoduleOf q ≃ₗ[R] p :=
  (submoduleOfEquivInf p q).trans (inf_of_le_left h |>.symm ▸ .refl R p : (p ⊓ q :) ≃ₗ[R] p)
```

Comment (ChiCubed) [reply Mathlib/Algebra/Module/Submodule/Map.lean:298]: Yeah so I did consider this. I would be happy doing this using `LinearEquiv.ofEq` instead of a ▸, but that wasn't imported already in this file, and I didn't think about it further.

File: Mathlib/Algebra/Module/Submodule/Ker.lean [hunk 2]
```diff
@@ -126,6 +126,15 @@ theorem ker_restrict {p : Submodule R M} {q : Submodule R₂ M₂} {f : M →ₛ
     ker (f.restrict hf) = (ker f).comap p.subtype := by
   rw [restrict_eq_codRestrict_domRestrict, ker_codRestrict, ker_domRestrict]
 
+theorem ker_submoduleComap (f : M →ₛₗ[τ₁₂] M₂) (q : Submodule R₂ M₂) :
```
Comment (themathqueen) [inline Mathlib/Algebra/Module/Submodule/Ker.lean:130]: is there a reason why this isn't also simp like the one below?

File: Mathlib/Algebra/Module/Submodule/Map.lean
Comment (themathqueen) [reply Mathlib/Algebra/Module/Submodule/Map.lean:298]: Hmm, I think [LinearEquiv.ofEq](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/Submodule/Equiv.html#LinearEquiv.ofEq) should probably be moved earlier
But for now I don't think the imports would be that bad if yo import it here??

File: Mathlib/Algebra/Module/Submodule/Ker.lean (hunk 2 above)
Comment (ChiCubed) [reply Mathlib/Algebra/Module/Submodule/Ker.lean:130]: It was just coz it increases the number of occurrences of `f` in the term. Maybe it's fine for it to be simp anyways though.

File: Mathlib/Algebra/Module/Submodule/Map.lean
Comment (ChiCubed) [reply Mathlib/Algebra/Module/Submodule/Map.lean:298]: That causes a cycle (currently there's like Map -> Ker -> Range -> Equiv)

Comment (themathqueen) [reply Mathlib/Algebra/Module/Submodule/Map.lean:298]: Right. Maybe add a "TODO: use `submoduleOfEquivInf` to define this when we move `LinearEquiv.ofEq`"?

File: Mathlib/Algebra/Module/Submodule/Ker.lean (hunk 2 above)
Comment (themathqueen) [reply Mathlib/Algebra/Module/Submodule/Ker.lean:130]: I think you had the right thought of not putting it simp, probably. Let's keep it unsimp-ed

File: Mathlib/Algebra/Module/Submodule/Ker.lean [hunk 3]
```diff
@@ -127,6 +127,15 @@ theorem ker_restrict {p : Submodule R M} {q : Submodule R₂ M₂} {f : M →ₛ
...
+    ker (submoduleComap f q) = (ker f).submoduleOf _ := by
```
Comment (themathqueen) [inline Mathlib/Algebra/Module/Submodule/Ker.lean]: can we do this instead of having `_` in the lemma, it makes readability worse
```suggestion
    ker (submoduleComap f q) = (ker f).submoduleOf (q.comap f) := by
```

File: Mathlib/Algebra/Module/Submodule/Map.lean [hunk 4]
```diff
@@ -274,7 +274,18 @@ section submoduleOf
 def submoduleOf (p q : Submodule R M) : Submodule R q :=
   Submodule.comap q.subtype p
 
-/-- If `p ≤ q`, then `p` as a subgroup of `q` is isomorphic to `p`. -/
+theorem map_subtype_submoduleOf (p q : Submodule R M) :
```
Comment (themathqueen) [inline Mathlib/Algebra/Module/Submodule/Map.lean:278]: can you golf `map_comap_subtype` on line 470 using this lemma? I guess that's with `inf_comm`?
Makes me think this lemma should maybe be the other way around? I.e., `map p.subtype (q.submoduleOf p) = ..` (or just change the right-hand-side, either way)?

File: Mathlib/Algebra/Module/Submodule/Map.lean
Comment (themathqueen) [inline Mathlib/Algebra/Module/Submodule/Map.lean:562]: this is literally `submoduleOfEquivOfLe` hmm. Let's at least use the previous definition so that we know it's basically a duplicate:

```suggestion
@[simps! apply_coe symm_apply]
def comapSubtypeEquivOfLe {p q : Submodule R M} (hpq : p ≤ q) : comap q.subtype p ≃ₗ[R] p :=
  submoduleOfEquivOfLe hpq
```

File: Mathlib/LinearAlgebra/Dimension/RankNullity.lean [hunk 5]
```diff
@@ -95,16 +95,36 @@ theorem LinearMap.rank_eq_of_surjective {f : M →ₗ[R] M₁} (h : Surjective f
...
+    lift.{v} (Module.rank R (comap f p)) =
+      lift.{u} (Module.rank R (f.range ⊓ p :)) + lift.{v} (Module.rank R f.ker) := by
+  convert ← (f.submoduleComap p).lift_rank_range_add_rank_ker.symm <;> apply LinearEquiv.rank_eq
+  · rw [range_submoduleComap]; apply submoduleOfEquivInf
+  · rw [ker_submoduleComap]; exact submoduleOfEquivOfLe (by simp)
+
+theorem LinearMap.rank_comap (f : M →ₗ[R] M₁) (p : Submodule R M₁) :
+    Module.rank R (comap f p) = Module.rank R (f.range ⊓ p :) + Module.rank R f.ker := by
+  convert lift_rank_comap f p using 0
+  simp_rw [lift_id]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Dimension/RankNullity.lean]:
```suggestion
  simpa using lift_rank_comap f p
```

File: Mathlib/Algebra/Module/Submodule/Map.lean
Comment (ChiCubed) [reply Mathlib/Algebra/Module/Submodule/Map.lean:562]: Whoops, not sure how I missed that.

Comment (ChiCubed) [reply Mathlib/Algebra/Module/Submodule/Map.lean:562]: Oh, because it was an existing definition, OK

File: Mathlib/Algebra/Module/Submodule/Map.lean (hunk 4 above)
Comment (ChiCubed) [reply Mathlib/Algebra/Module/Submodule/Map.lean:278]: OK. `ext; simp` wants it to be in this order, but I guess that's a red herring (the other order seems better with inf being left-associative). i'm leaving the arg order as is to agree with submoduleOf.

File: Mathlib/Algebra/Module/Submodule/Map.lean
Comment (ChiCubed) [reply Mathlib/Algebra/Module/Submodule/Map.lean:562]: I'm reverting this for now, the defeq abuse means it gives a `simps!` lemma with the wrong type on the argument (submoduleOf instead of comap), which causes breakages.

**Comment by ChiCubed** [comment]
-awaiting-author

File: Mathlib/Algebra/Module/Submodule/Map.lean
Comment (themathqueen) [reply Mathlib/Algebra/Module/Submodule/Map.lean:562]: having a note is good, thanks for adding that :)

File: Mathlib/LinearAlgebra/Dimension/RankNullity.lean [hunk 6]
```diff
@@ -95,16 +95,35 @@ theorem LinearMap.rank_eq_of_surjective {f : M →ₗ[R] M₁} (h : Surjective f
...
+    lift.{u} (Module.rank R (map f p)) + lift.{v} (Module.rank R (p ⊓ f.ker :)) =
+      lift.{v} (Module.rank R p) := by
+  convert ← (f.submoduleMap p).lift_rank_range_add_rank_ker <;> apply LinearEquiv.rank_eq
+  · rw [range_submoduleMap]; exact topEquiv
+  · rw [ker_submoduleMap]; apply submoduleOfEquivInf
+
+theorem LinearMap.rank_map_add_rank_ker_inf (f : M →ₗ[R] M₂) (p : Submodule R M) :
+    Module.rank R (map f p) + Module.rank R (p ⊓ f.ker :) = Module.rank R p := by
+  convert lift_rank_map_add_rank_ker_inf f p using 0
+  simp_rw [lift_id]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Dimension/RankNullity.lean]: here are some golfs. Note the reordering of the lemmas, and the reordering of the `⊓`:


```suggestion
theorem LinearMap.lift_rank_map_add_rank_ker_inf (f : M →ₗ[R] M') (p : Submodule R M) :
    lift.{u} (Module.rank R (map f p)) + lift.{v} (Module.rank R (p ⊓ f.ker :)) =
      lift.{v} (Module.rank R p) := by
  rw [← (submoduleOfEquivInf _ _).rank_eq, ← (f.submoduleMap p).lift_rank_range_add_rank_ker,
    range_submoduleMap, ker_submoduleMap]
  simp

theorem LinearMap.rank_map_add_rank_ker_inf (f : M →ₗ[R] M₂) (p : Submodule R M) :
    Module.rank R (map f p) + Module.rank R (p ⊓ f.ker :) = Module.rank R p := by
  simpa using lift_rank_map_add_rank_ker_inf f p

theorem LinearMap.lift_rank_comap (f : M →ₗ[R] M') (p : Submodule R M') :
    lift.{v} (Module.rank R (comap f p)) =
      lift.{u} (Module.rank R (f.range ⊓ p :)) + lift.{v} (Module.rank R f.ker) := by
   rw [← f.lift_rank_map_add_rank_ker_inf, map_comap_eq, inf_of_le_right (ker_le_comap f)]

theorem LinearMap.rank_comap (f : M →ₗ[R] M₁) (p : Submodule R M₁) :
    Module.rank R (comap f p) = Module.rank R (f.range ⊓ p :) + Module.rank R f.ker := by
  simpa using lift_rank_comap f p
```

Comment (ChiCubed) [reply Mathlib/LinearAlgebra/Dimension/RankNullity.lean]: Nice!

**Comment by ChiCubed** [comment]
-awaiting-author

File: Mathlib/Algebra/Module/Submodule/Map.lean [hunk 7]
```diff
@@ -532,6 +548,8 @@ section Module
 
 variable [Semiring R] [AddCommMonoid M] [Module R M]
 
+-- NOTE: this is identical to `submoduleOfEquivOfLe` above, but using
+-- it directly creates bad `simps!` lemmas because of the defeq abuse
```
Comment (themathqueen) [inline Mathlib/Algebra/Module/Submodule/Map.lean:552]: are you sure about this (am I misunderstanding what you're saying?), because I just checked and the `apply_coe` and `symm_apply` created is identical to the current ones

File: Mathlib/LinearAlgebra/Dimension/RankNullity.lean [hunk 8]
```diff
@@ -95,16 +95,32 @@ theorem LinearMap.rank_eq_of_surjective {f : M →ₗ[R] M₁} (h : Surjective f
...
+theorem LinearMap.lift_rank_map_add_rank_inf_ker (f : M →ₗ[R] M') (p : Submodule R M) :
+    lift.{u} (Module.rank R (map f p)) + lift.{v} (Module.rank R (p ⊓ f.ker :)) =
+      lift.{v} (Module.rank R p) := by
+  rw [← (submoduleOfEquivInf _ _).rank_eq, ← (f.submoduleMap p).lift_rank_range_add_rank_ker,
+    range_submoduleMap, ker_submoduleMap]
+  simp
+
+theorem LinearMap.rank_map_add_rank_inf_ker (f : M →ₗ[R] M₂) (p : Submodule R M) :
+    Module.rank R (map f p) + Module.rank R (p ⊓ f.ker :) = Module.rank R p := by
+  simpa using lift_rank_map_add_rank_inf_ker f p
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Dimension/RankNullity.lean:107]: I wonder if these would be better in the reverse so they can be called `Submodule.{lift_}rank_eq_...`, so that the user would know that this is to "unpack" the rank of a submodule?

File: Mathlib/Algebra/Module/Submodule/Map.lean (hunk 7 above)
Comment (ChiCubed) [reply Mathlib/Algebra/Module/Submodule/Map.lean:552]: Yes. The type of the ext argument changes from `↥(comap q.subtype p)` to the definitionally equal `↥(p.submoduleOf q)`, which breaks things within Mathlib (and also is obviously wrong given the type of the declaration). Arguably this should be considered a bug in `simps`

File: Mathlib/LinearAlgebra/Dimension/RankNullity.lean (hunk 8 above)
Comment (ChiCubed) [reply Mathlib/LinearAlgebra/Dimension/RankNullity.lean:107]: I chose this direction for consistency with `rank_range_add_rank_ker` et al., since these are just a generalisation thereof. If that precedent didn't exist I don't have a strong opinion on what the "correct" direction is but I do think the current presentation feels a little more natural to me.

File: Mathlib/Algebra/Module/Submodule/Map.lean (hunk 7 above)
Comment (ChiCubed) [reply Mathlib/Algebra/Module/Submodule/Map.lean:552]: just to be clear heres the alternative definition i was testing:
```lean
@[simps! apply_coe symm_apply]
def comapSubtypeEquivOfLe' {p q : Submodule R M} (hpq : p ≤ q) : comap q.subtype p ≃ₗ[R] p :=
  submoduleOfEquivOfLe hpq

#check comapSubtypeEquivOfLe'_apply_coe
```

Comment (themathqueen) [reply Mathlib/Algebra/Module/Submodule/Map.lean:552]: Ah, I see. Sorry, I should've looked harder into it before making my comment.

Comment (ChiCubed) [reply Mathlib/Algebra/Module/Submodule/Map.lean:552]: nws, i might also have missed it if not for it failing CI

File: Mathlib/Algebra/Module/Submodule/Map.lean [hunk 9]
```diff
@@ -270,11 +270,27 @@ theorem le_comap_map [RingHomSurjective σ₁₂] (f : M →ₛₗ[σ₁₂] M
 
 section submoduleOf
 
-/-- For any `R` submodules `p` and `q`, `p ⊓ q` as a submodule of `q`. -/
+/-- For any `R` submodules `p` and `q`, `q ⊓ p` as a submodule of `q`. -/
```
Comment (ADedecker) [inline Mathlib/Algebra/Module/Submodule/Map.lean:273]: Could you explain this change?

File: Mathlib/Algebra/Module/Submodule/Map.lean (hunk 7 above)
Comment (ADedecker) [reply Mathlib/Algebra/Module/Submodule/Map.lean:552]: I claim `submoduleOf` should really just be an abbrev for the `comap` thing, but that's a story for another time.

**Review by ADedecker — COMMENTED** [review]
I didn't have a very close look, but I'm a bit sad that you need all of these equivs for basic rank calculations (which does not necessarily mean that the equivs are bad). 

Could you try using [rank_map_eq](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Dimension/Basic.html#rank_map_eq) ? My guess is that it will be very painful without `set_option backward.isDefEq.respectTransparency false`, because you would then have to rewrite under types. 

I've been facing this issue quite a lot recently, and I will try to remember to start a Zulip discussion about it.

File: Mathlib/Algebra/Module/Submodule/Map.lean (hunk 9 above)
Comment (ChiCubed) [reply Mathlib/Algebra/Module/Submodule/Map.lean:273]: The new order is informed by the order of the RHS in the simp lemma `map_comap_subtype` (which I reimplement in terms of `map_subtype_submoduleOf` in this PR).

**Comment by ChiCubed** [comment]
> Could you try using [rank_map_eq](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Dimension/Basic.html#rank_map_eq) ? My guess is that it will be very painful without `set_option backward.isDefEq.respectTransparency false`, because you would then have to rewrite under types.

Thanks for the suggestion. Actually, it seems that it is totally painless in this case: replacing `← (submoduleOfEquivInf _ _).rank_eq` with `← map_subtype_submoduleOf, rank_map_eq p.injective_subtype` in the rewrite in the proof of `LinearMap.lift_rank_map_add_rank_inf_ker` just works. I am happy to make this change if it is preferred.

**Comment by themathqueen** [comment]
> Thanks for the suggestion. Actually, it seems that it is totally painless in this case: replacing `← (submoduleOfEquivInf _ _).rank_eq` with `← map_subtype_submoduleOf, rank_map_eq p.injective_subtype` in the rewrite in the proof of `LinearMap.lift_rank_map_add_rank_inf_ker` just works. I am happy to make this change if it is preferred.

Yes, you should probably do that :)
Or at least add a suggestion to the code so we can see the exact change?

File: Mathlib/LinearAlgebra/Dimension/RankNullity.lean [hunk 10]
```diff
@@ -95,16 +95,32 @@ theorem LinearMap.rank_eq_of_surjective {f : M →ₗ[R] M₁} (h : Surjective f
     Module.rank R M = Module.rank R M₁ + Module.rank R (LinearMap.ker f) := by
   rw [← rank_range_add_rank_ker f, ← rank_range_of_surjective f h]
 
+theorem LinearMap.lift_rank_map_add_rank_inf_ker (f : M →ₗ[R] M') (p : Submodule R M) :
+    lift.{u} (Module.rank R (map f p)) + lift.{v} (Module.rank R (p ⊓ f.ker :)) =
+      lift.{v} (Module.rank R p) := by
+  rw [← (submoduleOfEquivInf _ _).rank_eq, ← (f.submoduleMap p).lift_rank_range_add_rank_ker,
+    range_submoduleMap, ker_submoduleMap]
```
Comment (ChiCubed) [inline Mathlib/LinearAlgebra/Dimension/RankNullity.lean:102]:
```suggestion
  rw [← map_subtype_submoduleOf, rank_map_eq p.injective_subtype,
    ← (f.submoduleMap p).lift_rank_range_add_rank_ker, range_submoduleMap, ker_submoduleMap]
```

**Comment by ChiCubed** [comment]
> Or at least add a suggestion to the code so we can see the exact change?

done (see above). I'm guessing that if we do this I should leave `Submodule.submoduleOfEquivInf` in the PR (as opposed to deleting it because it's now unused)?

File: Mathlib/Algebra/Module/Submodule/Map.lean [hunk 11]
```diff
@@ -270,11 +270,27 @@ theorem le_comap_map [RingHomSurjective σ₁₂] (f : M →ₛₗ[σ₁₂] M
...
 def submoduleOf (p q : Submodule R M) : Submodule R q :=
   Submodule.comap q.subtype p
 
-/-- If `p ≤ q`, then `p` as a subgroup of `q` is isomorphic to `p`. -/
+@[simp]
+theorem map_subtype_submoduleOf (p q : Submodule R M) :
+    map q.subtype (p.submoduleOf q) = q ⊓ p := by
+  ext; simpa [submoduleOf] using And.comm
```
Comment (jcommelin) [inline Mathlib/Algebra/Module/Submodule/Map.lean:280]: I think the `And.comm` here is evidence that you should flip back the order to `p \inf q`.
In `map_comap_subtype` you can then use `inf_comm`, because I think that actually *that* lemma is the exceptional case.

Comment (ChiCubed) [reply Mathlib/Algebra/Module/Submodule/Map.lean:280]: Hmm, this did occur to me, but my rationalisation was that I shouldn't read into the order simplification gives us here too deeply, because I start with an `ext` and it seems like the simplification through nested `Exists` could easily end up in mysterious order changes.

I definitely don't like the idea of the RHS order being different to `map_comap_subtype`, and I'm not sure about considering that theorem exceptional given that it's marked `@[simp]`. Morally I can't really see any strong evidence favouring one or the other order, but the existing direction does get used in Mathlib like a low single digit number of times. (as a point of comparison, the analogous Set expression `f '' f ⁻¹' s` gets theorems in both directions and neither is simp)

**Comment by ChiCubed** [comment]
-awaiting-author
